US09353075B2
Step 3. Preparation of (2R,3S)-3-hydroxy-2-[[4-(3-thienyl)-phenyl]-methoxy-carbonylamino]-butanoic acid
To a stirred mixture of D-threonine (0.067 g, 0.56 mmol) and NaHCO3 (0.07 g, 0.84 mmol) in H2O (3.0 mL), the crude mixture containing 2-pyridyl-[4-(3-thienyl)-phenyl]-methyl carbonate and [4-(3-thienyl)-phenyl]-methyl-2-oxopyridine-1-carboxylate (0.263 g, 0.84 mmol) in THF (3.0 mL) was added. After 15 h at rt, the crude mixture was rotary evaporated to remove the organics and subsequently extracted with Et2O (3×5 mL). The aqueous phase was acidified with 2.0 M HCl solution to pH 2-3 and subsequently extracted with EtOAc (3×10 mL). The organic fraction was dried over Na2SO4, filtered and concentrated to dryness to afford the title compound (0.188 g, quant.) as white solid, which was used in the next step without further purification. MS (ESI) m/z: 353 [M−NH4]+. 1H NMR (DMSO-d6) δ: 1.10 (d, J=6.4 Hz, 3H), 3.97 (dd, J=3.5, 8.9 Hz, 1H), 4.08 (dq, J=3.5, 6.4 Hz, 1H), 5.07 (s, 2H), 6.96 (d, J=8.9 Hz, 1H), 7.41 (d, J=8.1 Hz, 2H), 7.53-7.60 (m, 1H), 7.64 (dd, J=2.9, 5.0 Hz, 1H), 7.72 (d, J=8.1 Hz, 2H), 7.86-7.91 (m, 1H), 12.58 (s, 1H).

reactant | D-threonine | 0.56 mmol, 0.067 g | N[C@H]([C@@H](O)C)C(=O)O | C4H9NO3
reactant | NaHCO3 | 0.84 mmol, 0.07 g | C(=O)(O)[O-].[Na+]
reactant | 2-pyridyl-[4-(3-thienyl)-phenyl]-methyl carbonate | C(OC(C1=CC=C(C=C1)C1=CSC=C1)C1=NC=CC=C1)([O-])=O
reactant | [4-(3-thienyl)-phenyl]-methyl-2-oxopyridine-1-carboxylate | 0.84 mmol, 0.263 g | S1C=C(C=C1)C1=CC=C(C=C1)C1=C(C(N(C=C1)C(=O)[O-])=O)C
solvent | H2O | 3.0 mL | O | H2O
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | (2R,3S)-3-hydroxy-2-[[4-(3-thienyl)-phenyl]-methoxy-carbonylamino]-butanoic acid | 0.188 g | O[C@H]([C@H](C(=O)O)N(C(=O)OC)C1=CC=C(C=C1)C1=CSC=C1)C | C16H17NO5S
